US07897764B2
To a solution of 1-(5-azido-pentyloxy)-3-nitro-benzene (3.12 g, 12.5 mmol) in 50 mL THF and 1 mL H2O was added triphenylphosphine (3.27 g, 12.5 mmol). The reaction mixture was stirred at room temperature for 48 hours and then was partitioned with ethyl acetate and water. The aqueous solution was extracted with ethyl acetate (3×50 mL). The combined organic phases were washed with brine, dried over MgSO4, and concentrated to give a yellow liquid, which was purified by silica gel column chromatography to give 5-(3-nitro-phenoxy)-pentylamine (2.75 g, 12.3 mmol, 98%) as a yellow liquid.

reactant | 1-(5-azido-pentyloxy)-3-nitro-benzene | 12.5 mmol, 3.12 g | N(=[N+]=[N-])CCCCCOC1=CC(=CC=C1)[N+](=O)[O-] | C11H14N4O3
reactant | triphenylphosphine | 12.5 mmol, 3.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | 5-(3-nitro-phenoxy)-pentylamine | 12.3 mmol, 2.75 g, 98% | [N+](=O)([O-])C=1C=C(OCCCCCN)C=CC1 | C11H16N2O3
